*******************************************************************************
*****************************************************************
* NXP BUK9Y19_55B
*
* Polarity N-Channel
* Ratings 55V/1.90E-02OHMS/20A
*
* Date Created Wed Mar 17 04:08:37 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y19_55B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 1100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0126509660264211 TC=0.00792238710332062,-1.22398145048884e-05
RBD 9 4 0.00105281790655922 TC=0.00792238710332062,-1.22398145048884e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 750000000000
CGS 2 6 1.43739024390244e-09
RG 1 2 1.47663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	
+ -20	
+ -10	1570
+ -5	1579
+ -2	1643
+ -1	1402
+ -0.5	1142
+ -0.2	998
+ -0.1	954
+ 0	872
+ 0.1	778
+ 0.2	717
+ 0.5	485
+ 1	323
+ 2	240
+ 5	168
+ 10	129
+ 12	121
+ 14	115
+ 20	102
+ 25	95
+ 44	87



.MODEL MINT NMOS(Vto=2.00491506605285 Kp=1.0440e+02 Nfs=600000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=61.60 Ibv=2.50E-04 Rs=1E-6 Is=8.39488367837975e-13
+ N=1 M=0.48 VJ=0.5 Fc=0.5 Cjo=7.96e-10 Tt=2.6e-08)

.ENDS

*******************************************************************************
